US04853399
2-[2'-Difluoromethoxy-4'-chlorophenyl]-2-[1H-1,2,4-triazolylmethyl]-4-chloromethyl-1,3-dioxolane
14.2 parts of 1-(4-chloro-2-difluoromethoxyphenyl)-2-(1H-1,2,4-triazolyl)ethan-1-one and 100 ml of n-butanol in 450 ml of abs. toluene are heated in the presence of 9.4 parts of p-toluenesulfonic acid for 5 hours under reflux, while removing the water of reaction with a water separator. After cooling to 60° C., 33 parts of 3-chloro-1,2-propanediol and a further 18 parts of p-toluenesulfonic acid are added and the batch is refluxed for 80 hours while removing the water of reaction with a water separator. The reaction mixture is cooled to room temperature, washed twice with saturated aqueous sodium carbonate solution and with 2×200 ml of water, dried over sodium sulfate and filtered. The solvent is removed in a rotary evaporator and the oily residue is chromatographed through a 50 cm column of silica gel with a 1:1 mixture of methylene chloride/diethyl ether as eluant. The solvent mixture is removed by evaporation, affording the title compound in the form of a pale yellow oil with a refractive index nD22 : 1.5336.

reactant | 1-(4-chloro-2-difluoromethoxyphenyl)-2-(1H-1,2,4-triazolyl)ethan-1-one | ClC1=CC(=C(C=C1)C(CN1N=CN=C1)=O)OC(F)F | C11H8ClF2N3O2
reactant | n-butanol | 100 ml | C(CCC)O | C4H10O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3-chloro-1,2-propanediol | ClCC(CO)O | C3H7ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[2'-Difluoromethoxy-4'-chlorophenyl]-2-[1H-1,2,4-triazolylmethyl]-4-chloromethyl-1,3-dioxolane | FC(OC1=C(C=CC(=C1)Cl)C1(OCC(O1)CCl)CN1N=CN=C1)F | C14H13Cl2F2N3O3
